US06121280
A mixture of 0.75 g (2.7 mmol) of 6-(3,4,5-trimethoxyphenyl)-2-keto-hexanal and 0.66 ml (8.0 mmol) of cyclopentadiene in 10 ml of aqueous saturated ammonium chloride was stirred at room temperature for 20 hours. The reaction mixture was diluted with 5 ml of water and extracted with 25 ml of ethyl acetate. The aqueous solution was then adjusted to pH=10 with 1N sodium hydroxide (NaOH) and extracted with ethyl acetate. These ethyl acetate layers were combined, dried (Na2SO4) and evaporated to yield 85 mg of 1-(2-Aza-bicyclo[2.2.1]hept-5-en-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one as a mixture of exo and endo isomers. 1H NMR: (CDCl3) δ 6.40 (s, 2 H), 6.22 (m, 1 H), 5.65 (m, 1 H), 3.8 (s, 6 H), 3,75 (s, 3 H), 3.0-4.2 (m, 2 H), 2.5 (m, 5 H), 1.6 (m, 4 H), 1.4 (m, 1 H), 1.2 (m, 1 H). Mass spectrum: m/e=346.2 (p+1).

reactant | 6-(3,4,5-trimethoxyphenyl)-2-keto-hexanal | 2.7 mmol, 0.75 g | COC=1C=C(C=C(C1OC)OC)CCCCC(C=O)=O | C15H20O5
reactant | cyclopentadiene | 8.0 mmol, 0.66 ml | C1=CC=CC1 | C5H6
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | water | 5 ml | O | H2O
product | 1-(2-Aza-bicyclo[2.2.1]hept-5-en-3-yl)-5-(3,4,5-trimethoxy-phenyl)-pentan-1-one | 85 mg | C12NC(C(C=C1)C2)C(CCCCC2=CC(=C(C(=C2)OC)OC)OC)=O | C20H27NO4
